US07544812B2
A solution of 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.128 g, 0.280 mmol) in DMF (4 mL) was treated with 60% oil suspension of NaH (0.028 g, 0.70 mmol) and stirred at room temperature under N2 for 15 minutes. The reaction was cooled to 0° C. and treated with iodomethane (0.16 g, 1.13 mmol) and then warmed to room temperature and stirred for 1 h. The reaction was quenched with 1 N HCl (3 mL) and worked up extractively with Et2O and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 5:1 hexanes:acetone to afford 0.098 g (74%) 2-(4-{2-[1-(3,4-dimethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester. MS (ES+) Calc'd for C27H37N2O5 (M+1) 469. Found m/z 469 (100%). 1H NMR.

reactant | 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.280 mmol, 0.128 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC1NC(N(C1)CC1=CC(=C(C=C1)C)C)=O)=O | C26H34N2O5
reactant | NaH | 0.70 mmol, 0.028 g | [H-].[Na+]
reactant | iodomethane | 1.13 mmol, 0.16 g | IC | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(4-{2-[1-(3,4-dimethyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.098 g, 74% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=C(C=C1)C)C)=O)C)=O | C27H36N2O5
